US08048881B2
4.1. 4-(2-benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid ethyl ester
Z-Gly-OH (2.09 g), HOBT hydrate (1.57 g), DIPEA (1.76 ml) and EDCI hydrochloride (1.96 g) were dissolved in DCM/DMF (60 ml/15 ml). After 15 min stirring, 1-ethoxycarbonylpiperazine (1.49 ml) was added and the stirring was continued overnight at RT. EA and a NaHCO3 solution were added to the mixture and the phases were separated. The org. phase was washed with a 1M NaHSO4 solution and a NaCl solution, dried (Na2SO4) and evaporated off. After HV drying, 3.5 g of the desired product were obtained.

reactant | Z-Gly-OH | 2.09 g | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | HOBT hydrate | 1.57 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | DIPEA | 1.76 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI hydrochloride | 1.96 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-ethoxycarbonylpiperazine | 1.49 ml | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM DMF | 60 ml | C(Cl)Cl.CN(C)C=O
solvent | EA | CC(OCC)=O | C4H8O2
product | 4-(2-benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid ethyl ester | 3.5 g | C(C)OC(=O)N1CCN(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O | C17H23N3O5
